US05750531
Step 2: 6-methyl-2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(1.1 ml, 10.2 mmol) was added to a mixture solution of 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.5 g, 5.5 mmol) and dimethylformamide(10 ml), 1.2 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methyl-4-fluoroaniline | 10.2 mmol, 1.1 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 5.5 mmol, 1.5 g | CC1=CC(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-methyl-2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 1.2 g, Yield: 51.7% | Cl.CC1=CC(=NC(=N1)NC1=C(C=C(C=C1)F)C)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H23FN4.ClH/c1-14-12-18(23)8-9-20(14)25-22-24-15(2)13-21(26-22)27-11-10-17-6-4-5-7-19(17)16(27)3;/h4-9,12-13,16H,10-11H2,1-3H3,(H,24,25,26);1H
